US03966938
Cis-6-(4-formamidophenyl)-8,9-dimethoxy-2-methyl-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6]naphthyridine
2,1 g of cis-6-(4-aminophenyl)-8,9-dimethoxy-2-methyl-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6] naphthyridine are heated to 100° for 21/2 hours in 50 ml of 90% formic acid. The reaction solution is evaporated to dryness in a vacuum, the resulting residue is made alkaline with a dilute potash solution and this aqueous phase is extracted with methylene chloride. After drying and concentrating the organic phase by evaporation, the title compound is obtained as a yellow oil and crystallizes after the addition of ethanol in the form of yellowish prisms having a melting point of 140°-145°.

reactant | cis-6-(4-aminophenyl)-8,9-dimethoxy-2-methyl-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6] naphthyridine | 2,1 g | NC1=CC=C(C=C1)C1=N[C@H]2CCN(C[C@H]2C2=C1C=C(C(=C2)OC)OC)C | C21H25N3O2
reactant | formic acid | 50 ml | C(=O)O | CH2O2
product | Cis-6-(4-formamidophenyl)-8,9-dimethoxy-2-methyl-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6]naphthyridine | C(=O)NC1=CC=C(C=C1)C1=N[C@H]2CCN(C[C@H]2C2=C1C=C(C(=C2)OC)OC)C | C22H25N3O3
